reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:4](=[C:3]=[C:2]([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:6])([H:7])[H:8],95.6737916874308
[O:1]([C:2]([C:3]([C:4]#[N:5])([H:10])[H:11])=[C:6]=[C:7]([H:9])[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],78.36705922102274
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:2](=[O:3])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],92.23540591494199
[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:5]([H:11])[H:15],67.66460792544059
[C:1]([C@@:2]1([O:3][H:11])[C:6]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],43.433700596869286
[C:1]([N:2]=[C:3]=[O:4])([H:8])([H:9])[H:10].[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],67.2707345298599
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([O-:5])=[C+:6][O:7][H:11])([H:8])([H:9])[H:10],79.87871586067159
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]([C:6]([H:12])([H:13])[H:14])([H:10])[O:5]1)([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],52.497899835175204
[C:1]([C:2]([C:3]([O:4][H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5]([C:3](=[O:4])[H:12])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:13])([H:16])([H:17])[H:18],102.40242065675601
[O:1]([C:2]([C:3](=[C-:4])[N+:6]#[C:5])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],20.2067483809371
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:5][C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[N:3]#[C:4][H:12],94.39817615593141
[C:1](#[C:2][C@@:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([O:6][H:9])[H:8])[H:7]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],95.69777645502319
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:6][C:5](=[C:4]([H:14])[H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],74.16958046293071
[O:1]([C:2]([C:3](=[C:4]=[C:5]([H:11])[H:12])[C:6]#[N:7])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],80.03083058795073
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C-:4])[N+:6]#[C:5])([H:8])[H:9])[H:7],93.3289635228456
[N:1]#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[C:6]([H:12])([H:13])[N:7]12>>[N:1]#[C:2][C@@:3]1([H:8])[C-:4]([H:10])[C:5]([H:9])([H:11])[N+:7]1=[C:6]([H:12])[H:13],95.81839563560742
[C:1](=[N:2]/[C:3]([N:4]([H:10])[H:11])=[C:5](\[O:6][H:9])[H:12])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],21.416768095001498
[C:1]([C:2](/[C:3]([O:4][H:14])=[C:5](\[C:6]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:13])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],65.39240005005705
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([O+:5]=[C-:6]1)[C:7]2([H:14])[H:15])([H:8])([H:9])[H:10],52.4744606141924
[C:1](/[N:2]=[C:3](\[O:6]/[C:5](=[N:4]/[H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],32.6797905881492
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@:3]([C:4]([H:11])([H:12])[H:13])([H:10])[C@@:6]2([H:14])[C:5]1>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[C@:6]23[H:14],32.83983965206169
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([O+:6]=[C-:5][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],39.789564259673995
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:8])[H:9].[C:3](=[O:4])([C:5]([O:6][H:12])([H:10])[H:11])[H:7],79.4701702906499
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[O:5])[N+:7]([H:14])=[C-:6]1)([H:8])([H:9])[H:10],85.750232850292
